US04777165
A solution of 0.5 g of 17α-acetoxy-6α,16β-dimethyl-4,9(11)-pregnadiene-3,20-dione in 7.7 ml of dioxane and 0.5 ml of water is combined, after adding 380 mg of N-bromosuccinimide, at 20° C. dropwise with a solution of 0.04 ml of 70% strength perchloric acid in 0.6 ml of water. The mixture is agitated for one hour at an internal temperature of 20° C., cooled down to 15° C., and neutralized dropwise with a solution of 1.6 g of sodium acetate and 1.0 g of sodium sulfite in 9.7 ml of water. In this process, the internal temperature must not rise beyond 23° C. After the addition of 5 ml of methanol, the reaction mixture is stirred for 15 minutes at room temperature and, after adding 20 ml of water, for 3 hours at 0° C. Finally, the precipitate is suctioned off, the residue is washed neutral with water and dried at 70° C. in a vacuum-drying cabinet. The crude product is recrystallized from acetone/hexane, thus isolating 380 mg of 17α-acetoxy-9α-bromo-11β-hydroxy-6α,16β-dimethyl-4-pregnene-3,20-dione, mp 162° C. (decomposition).

reactant | 17α-acetoxy-6α,16β-dimethyl-4,9(11)-pregnadiene-3,20-dione | 0.5 g | C(C)(=O)O[C@]1(C(C)=O)[C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)C)C | C25H34O4
reactant | N-bromosuccinimide | 380 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium acetate | 1.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulfite | 1.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 7.7 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
solvent | water | 0.6 ml | O | H2O
solvent | water | 9.7 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 17α-acetoxy-9α-bromo-11β-hydroxy-6α,16β-dimethyl-4-pregnene-3,20-dione | 380 mg | C(C)(=O)O[C@]1(C(C)=O)[C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)O)Br)=O)C)C | C25H35BrO5
